US06617329B2
4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopentyloxy-7-{2-[4-(tert.butyloxycarbonyl)-piperazin-1-yl]-ethoxy}-quinazoline
340 mg of 1,8-diazabicyclo[5.4.0]undec-7-ene are added at ambient temperature to 940 mg of 4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopentyloxy-7-(2-bromoethoxy)-quinazoline and 1.00 g of N-(tert.butyloxycarbonyl)-piperazine in 30 ml of acetonitrile. The reaction mixture is heated to 60° C. for five hours. Then a further 0.2 g of N-(tert.butyloxycarbonyl)-piperazine and some 1,8-diazabicyclo[5.4.0]undec-7-ene are added. The yellow reaction solution is stirred for two hours at 60° C. and then overnight at ambient temperature, during which time a white precipitate is formed. This is suction filtered, washed with a little acetonitrile and dried. 453 mg of the desired product are obtained as a white solid. The mother liquor is concentrated by evaporation and the flask residue is chromatographed over a silica gel column with methylene chloride/methanol (95:5). Another 300 mg of the desired product are obtained.

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 340 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopentyloxy-7-(2-bromoethoxy)-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OC1CCCC1)OCCBr | C21H20BrClFN3O2
reactant | N-(tert.butyloxycarbonyl)-piperazine | 1.00 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | N-(tert.butyloxycarbonyl)-piperazine | 0.2 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopentyloxy-7-{2-[4-(tert.butyloxycarbonyl)-piperazin-1-yl]-ethoxy}-quinazoline | 453 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OC1CCCC1)OCCN1CCN(CC1)C(=O)OC(C)(C)C | C30H37ClFN5O4
